US06881736B1
(a) (4 R, 5 S)-3,4-Dimethyl-1-[(E)-3-(pyridin-3-yl)prop-2-enoyl]-5-phenylimidazolidin-2-one
A solution of 3-bromopyridine (8.6 mL, 88.5 mmole), (4 R, 5 S)-1-acryloyl-3,4-dimethyl-5-phenylimidazolidin-2-one (14.4 g. 59 mmole), Pd(OAc)2 (662 mg, 2.95 mmole), P(o-tolyl)3 (1.80 g, 5.9 mmole), and (i-Pr)2NEt (22 mL, 124 mmole) in dry DMF (300 mL) was degassed (3×vacuum/N2 purge) then heated to 110° C. After 2 hr the mixture was cooled and poured into EtOAc. The resulting mixture was washed with H2O (3×), and the combined aqueous layers were back-extracted with EtOAc (2×). The combined organic layers were dried over MgSO4, filtered through a plug of silica gel, and concentrated. The residue was taken up in 1: EtOAc/hexanes and the solid was collected, washed with 1:1 EtOAc/hexanes, and dried in vacuo to afford a first crop of the title compound. The filtrate was concentrated and the crystallization process was repeated to afford a second crop. The total yield of the title compound was 17.53 g (92%): 1H NMR (400 MHz, CDCl3) δ 8.48-8.85 (m, 2H), 8.25 (d, J=15.9 Hz, 1 H), 7.89-7.97 (m, 1 H), 7.68 (d, J=15.9 Hz, 1 H), 7.15-7.38 (m, 6 H), 5.43 (d, J=8.5 Hz, 1 H), 3.90-4.02 (m, 1 H), 2.88 (s, 3H), 0.85 (d, J=6.6 Hz, 3 H); MS (ES) m/e 322 (M+H)+.

reactant | 3-bromopyridine | 88.5 mmole, 8.6 mL | BrC=1C=NC=CC1 | C5H4BrN
reactant | 1-acryloyl-3,4-dimethyl-5-phenylimidazolidin-2-one | 59 mmole, 14.4 g | C(C=C)(=O)N1C(N(C(C1C1=CC=CC=C1)C)C)=O | C14H16N2O2
reactant | P(o-tolyl)3 | 5.9 mmole, 1.80 g | CC1=C(C=CC=C1)P(C2=C(C=CC=C2)C)C3=C(C=CC=C3)C | C21H21P
reactant | (i-Pr)2NEt | 124 mmole, 22 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 300 mL | CN(C)C=O | C3H7NO
catalyst | Pd(OAc)2 | 2.95 mmole, 662 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | 3,4-Dimethyl-1-[(E)-3-(pyridin-3-yl)prop-2-enoyl]-5-phenylimidazolidin-2-one | CN1C(N(C(C1C)C1=CC=CC=C1)C(\C=C\C=1C=NC=CC1)=O)=O | C19H19N3O2
